US07122666B2
(2S,8aS)-2-Methoxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
7.52 ml (54 mmol) of triethylamine were added dropwise with ice-cooling and stirring to a suspension of 4.40 g (22.5 mmol) of (2S,4S)-4-methoxyhomoproline hydrochloride in 100 ml of methylene chloride, followed by the further dropwise addition with ice-cooling of 2.66 ml (24.8 mmol) of methyl malonyl chloride, and the resulting mixture was then stirred for 15 minutes at the same temperature. After the reaction mixture was stirred for a further 2 hours at room temperature, a saturated aqueous solution of sodium hydrogencarbonate was added, the pH value of the separated aqueous layer was adjusted to 2 by the addition of concentrated hydrochloric acid, and then the mixture was extracted with a 4:1 by volume mixture of methylene chloride and isopropanol. The organic extract was washed with water, dried over anhydrous magnesium sulfate and then concentrated by evaporation under reduced pressure to afford 5.83 g (yield: quantitative) of the title compound as a brown oil.

reactant | triethylamine | 54 mmol, 7.52 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | 22.5 mmol, 4.40 g | Cl | ClH
reactant | methyl malonyl chloride | 24.8 mmol, 2.66 ml | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (2S,8aS)-2-Methoxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 5.83 g, yield: quantitative | CO[C@H]1C[C@H]2CC(CCN2C1)=O | C9H15NO2
